US08222246B2
b) 6-[3-(3,4-Difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-(2-hydroxy-1,1-dimethyl-ethyl)-nicotinamide
To a solution of 6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid (200 mg, 0.58 mmol) in THF (6 mL) were added 1-hydroxybenzotriazole hydrate (86.3 mg, 0.55 mmol), N-ethyldiisopropylamine (241 μL, 1.38 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (108 mg, 0.55 mmol) and 2-amino-2-methyl-1-propanol (50.7 mg, 0.55 mmol). The reaction mixture was stirred overnight at room temperature. Chromatography (silica, dichloromethane:methanol=0:100 to 95:5) afforded the title compound (120 mg, 50%) as a colourless oil. MS: m/e=434.4 [M+H]+.

reactant | 6-[3-(3,4-difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.58 mmol, 200 mg | FC=1C=C(C=CC1F)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C17H12F2N2O5
reactant | 1-hydroxybenzotriazole hydrate | 0.55 mmol, 86.3 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyldiisopropylamine | 1.38 mmol, 241 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.55 mmol, 108 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-amino-2-methyl-1-propanol | 0.55 mmol, 50.7 mg | NC(CO)(C)C | C4H11NO
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-[3-(3,4-Difluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-(2-hydroxy-1,1-dimethyl-ethyl)-nicotinamide | 120 mg, 50% | FC=1C=C(C=CC1F)C1=NOC(=C1COC1=NC=C(C(=O)NC(CO)(C)C)C=C1)CO | C21H21F2N3O5
